US08980877B2
(E)-3-[1′-(1-Methyl-1H-Indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester (220 mg, 0.53 mmol) was hydrolyzed with 1 M NaOH (0.68 ml) following the procedure described in Example 30, Step A, giving (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid (180 mg) as a brown solid.

reactant | (E)-3-[1′-(1-Methyl-1H-Indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid methyl ester | 0.53 mmol, 220 mg | COC(\C=C\C=1C=C2C(CC3(CN(C3)CC3=CN(C4=CC=CC=C34)C)OC2=CC1)=O)=O | C25H24N2O4
reactant | NaOH | 1 M, 0.68 ml | [OH-].[Na+]
product | (E)-3-[1′-(1-methyl-1H-indol-3-ylmethyl)-4-oxo-spiro(chromane-2,3′-azetidine)-6-yl]-acrylic acid | 180 mg | CN1C=C(C2=CC=CC=C12)CN1CC2(C1)OC1=CC=C(C=C1C(C2)=O)/C=C/C(=O)O | C24H22N2O4
